US04351939
A mixture of 1-(2-pyrimidinyl)piperazine (16.4 g., 0.1 mole), 1,4-dichlorobutane (23.8 g., 0.19 mole), sodium carbonate monohydrate (30.8 g., 0.25 mole) and potassium bromide (44.6 g., 0.375 mole) in 150 ml. of isopropanol is stirred and refluxed for an 8-hr. period. The hot reaction mixture is filtered and insolubles washed with hot isopropanol. Concentration of the combined filtrates under reduced pressure and trituration of residual material with acetone provides 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane bromide in yields of 50-90%.

reactant | 1-(2-pyrimidinyl)piperazine | 0.1 mole, 16.4 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 1,4-dichlorobutane | 0.19 mole, 23.8 g | ClCCCCCl | C4H8Cl2
reactant | sodium carbonate monohydrate | 0.25 mole, 30.8 g | O.C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium bromide | 0.375 mole, 44.6 g | [Br-].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane bromide | [Br-].N1=C(N=CC=C1)N1CC[N+]2(CCCC2)CC1 | InChI=1S/C12H19N4.BrH/c1-2-9-16(8-1)10-6-15(7-11-16)12-13-4-3-5-14-12;/h3-5H,1-2,6-11H2;1H/q+1;/p-1
